US04399140
(c) 5-Chloro-6-methyl-1-(2-thienylmethyl)pyrimidin-2-one
Silver oxide (238 mg) was added to a solution of 5-chloro-4-hydrazino-6-methyl-1-(2-thienylmethyl)pyrimidin-2-one (128 mg) in propan-2-ol (20 ml). The mixture was stirred at ambient temperature for 24 hours, when evaporation of solvent gave a gum. This was subjected to p.l.c. on silica, developing in chloroform-ethanol (25:1, two runs). The major band was eluted with ethyl acetate giving a gum (23 mg) containing the title pyrimidinone p.m.r. spectrum in CDCl3, signals relative to SiMe4 in p.p.m.: 2.6 (3H, s) 6-CH3 ; 5.4 (2H,s) 1-CH2 -.

reactant | 5-chloro-4-hydrazino-6-methyl-1-(2-thienylmethyl)pyrimidin-2-one | 128 mg | ClC=1C(=NC(N(C1C)CC=1SC=CC1)=O)NN | C10H11ClN4OS
solvent | propan-2-ol | 20 ml | CC(C)O | C3H8O
solvent | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
catalyst | Silver oxide | 238 mg | [Ag]=O
product | 5-Chloro-6-methyl-1-(2-thienylmethyl)pyrimidin-2-one | ClC=1C=NC(N(C1C)CC=1SC=CC1)=O | C10H9ClN2OS
